US06248765B1
(4-(3-(1H-Imidazol-4-yl)propyloxy)-2-methylphenyl)ethanone
5 mmol of 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol and 6 mmol of (4-hydroxy-2-methylphenyl)ethanone are treated as described in Example 56, but isolated in the form of the free base.

reactant | 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | (4-hydroxy-2-methylphenyl)ethanone | 6 mmol | OC1=CC(=C(C=C1)C(C)=O)C | C9H10O2
product | (4-(3-(1H-Imidazol-4-yl)propyloxy)-2-methylphenyl)ethanone | N1C=NC(=C1)CCCOC1=CC(=C(C=C1)C(C)=O)C | C15H18N2O2
